US07902203B2
di-tert-butyl (5-bromo-3-pyridinyl)methylimidodicarbonate
A solution of 5-bromo-3-chloromethylpyridinium hydrochloride (716 mg, 4.189 mmol) in anhydrous DMF (15 mL) under nitrogen at 0° C. was treated with triethylamine (0.65 mL, 4.61 mmol), tetrabutylammonium bromide (273 mg, 0.838 mmol), and potassium di-tert-butyl imidodicarbonate (1.284 g, 5.027 mmol). The reaction was heated to 50° C.-55° C. for 3.5 hours, then cooled to room temperature, diluted with ethyl acetate (150 mL), and washed with water (2×50 mL) and saturated aqueous sodium chloride. The combined extracts were dried over anhydrous Na2SO4, filtered, and concentrated by rotary evaporation. The residue was purified by flash column chromatography on silica gel with 6% ethyl acetate/dichloromethane to give the title compound as a colorless oil (0.980 g, 60%). MS (ESI+) m/z 387/389 (M+H)+; 1H NMR (300 MHz, CDCl3) δ 1.49 (s, 18H), 4.75 (s, 2H), 7.83 (t, J=2.02 Hz, 1H), 8.50 (d, J=1.84 Hz, 1H), 8.58 (d, J=2.21 Hz, 1H).

reactant | 5-bromo-3-chloromethylpyridinium hydrochloride | 4.189 mmol, 716 mg | Cl.BrC=1C=C(C=[NH+]C1)CCl
reactant | triethylamine | 4.61 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | potassium di-tert-butyl imidodicarbonate | 5.027 mmol, 1.284 g | C(=O)(OC(C)(C)C)NC(=O)OC(C)(C)C.[K]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 0.838 mmol, 273 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | di-tert-butyl (5-bromo-3-pyridinyl)methylimidodicarbonate | 0.980 g, 60% | BrC=1C=C(C=NC1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H23BrN2O4
